US04496578
(4R)-3-[(2S)-S-Cyclohexanecarbonyl-3-mercapto-2-methylpropanoyl]-4-thiazolidinecarboxylic acid (Compound 9)
2.4 g of (4R)-3-[(2S)-3-mercapto-2-methylpropanoyl]-4-thiazolidinecarboxylic acid and 2.8 g of potassium carbonate are dissolved in 50 ml of water. To this solution, 1.8 g of cyclohexanecarbonyl chloride is added dropwise with stirring under ice-cooling. After the addition, the mixture is stirred under ice-cooling for 1 hour and at room temperature for additional 1 hour. This reaction solution is washed with ethyl acetate, acidified with conc. hydrochloric acid, and extracted with ethyl acetate. The organic layer is washed with saturated sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo to give oil, yield 3.5 g. The oil is purified by silica gel column chromatography to give the titled compound, yield 2.8 g (81%), mp. 79.5°-80° C. (benzene-n-hexane), [α]D23 -176.2° (c=1.0, methanol).

reactant | (4R)-3-[(2S)-3-mercapto-2-methylpropanoyl]-4-thiazolidinecarboxylic acid | 2.4 g | SC[C@H](C(=O)N1CSC[C@H]1C(=O)O)C | C8H13NO3S2
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclohexanecarbonyl chloride | 1.8 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | water | 50 ml | O | H2O
product | (4R)-3-[(2S)-S-Cyclohexanecarbonyl-3-mercapto-2-methylpropanoyl]-4-thiazolidinecarboxylic acid | C1(CCCCC1)C(=O)SC[C@H](C(=O)N1CSC[C@H]1C(=O)O)C | C15H23NO4S2
